US07105544B2
N-{5-[1-(3-{[BIS(4-METHYLPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-2-FLUOROPHENYL}BUTANAMIDE
Example 109 was prepared from bis(4-methylphenyl)acetic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.30–8.13 (m, 1H), 8.08–7.92 (br, 1H), 7.43–6.89 (m, 9H), 6.76–6.61 (br, 1H), 4.98–4.79 (br, 1H), 4.70 (s, 1H), 3.39–3.16 (m, 4H), 2.83–2.63 (m, 2H), 2.63–2.47 (m, 1H), 2.45–2.12 (m, 4H), 2.27 (s, 6H), 2.02–1.64 (m, 8H), 1.02 (t, 3H, J=7.2 Hz); ESMS m/e: 544.4 (M+H)+.

reactant | bis(4-methylphenyl)acetic acid | CC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)C | C16H16O2
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}butanamide | NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(CCC)=O)F | C18H28FN3O
product | N-{5-[1-(3-{[BIS(4-METHYLPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]-2-FLUOROPHENYL}BUTANAMIDE | CC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(CCC)=O)F)C1=CC=C(C=C1)C | C34H42FN3O2
